US06407091B1
Benzhydryl 3-[prop-1′E-ene-3′-amide)]-7Z-[(2″-pyridyl)methylidene]-2-cephem-4-carboxylate (11d). Using a procedure similar to that described by S. Trippet, and D. M. Walker, J. Chem. Soc. 3874, 1959, the requisite ylide (carbamoylmethylenetriphenyl-phosphorane) was obtained as follows: A solution of carbamoylmethyltriphenyl-phosphonium chloride (5 g, 14.0 mmol), (itself obtained from chloroacetamide and triphenylphosphine in refluxing nitromethane) in H2O (75 mL) was cooled to 0° C. and a cold (0-5° C.) solution of NaOH (0.56 g in 5 mL H2O) was added in one portion. The resultant mixture was immediately filtered and washed with cold water (75 mL). The collected precipitate was dried under high vacuum to provide carbamoylmethylenetriphenylphosphorane. This ylide was reacted with aldehyde 10 according to the general procedure above to give the title compound; yield: 78%; 1H NMR (CDCl3): δ 5.41 (s, 1H), 5.70 (d, J=15.5 Hz, 1H), 5.95 (s, 1H), 6.84 (s, 1H), 6.87 (s, 1H), 6.96 (s, 1H), 7.23-7.36 (m, 13H), 7.69-7.72 (m, 2H), 8.60 (d, J=4.12 Hz, 1H).

reactant | chloroacetamide | ClCC(=O)N | C2H4ClNO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
solvent | H2O | 75 mL | O | H2O
product | carbamoylmethyltriphenyl-phosphonium chloride | 14.0 mmol, 5 g | [Cl-].C(N)(=O)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C20H18NOP.ClH/c21-20(22)16-23(17-10-4-1-5-11-17,18-12-6-2-7-13-18)19-14-8-3-9-15-19;/h1-15H,16H2,(H-,21,22);1H
